US08198453B2
To a magnetically stirred solution of (R)-3-allyl-tetrahydro-2H-pyran (18.7 g, 148 mmol) in acetonitrile (740 mL) at room temperature was added RuCl3.2H2O (1.43 g, 5.92 mmol) in one portion. The resulting dark brown solution was stirred at room temperature for 5 min and then NaIO4 (69 g, 326 mmol) was added in one portion. H2O was added in small portions (10×8 mL) at 5 min intervals. The reaction was stirred at room temperature for 30 min, at which time it was judged complete by TLC. The reaction mixture was quenched by addition of saturated aqueous Na2S2O3 (250 mL) and H2O (1000 mL). The phases were separated and the aqueous phase was extracted with Et2O (4×400 mL). The combined with organic layers were washed with H2O, brine, dried over MgSO4, filtered, and concentrated under reduced pressure to furnish the crude product as a yellow oil. The crude material was purified by flash chromatography (ISCO; 120 g column; Hexane to 40% EtOAc/Hexane) to provide (R)-2-(tetrahydro-2H-pyran-3-yl)acetaldehyde as a yellow oil (14.3 g, 111 mmol, 60%); 1H NMR (400 MHz, CDCl3) δ 9.78 (t, J=2, 1H), 3.84-3.88 (m, 2H), 3.40-3.47 (m, 1H), 3.17 (dd, J=11.2, 8.8 Hz, 1H), 2.31-2.41 (m, 2H), 2.21-2.28 (m, 1H), 1.88-1.93 (m, 1H), 1.61-1.72 (m, 2H), 1.29-1.33 (m, 1H).

reactant | (R)-3-allyl-tetrahydro-2H-pyran | 148 mmol, 18.7 g | C(C=C)[C@@H]1COCCC1 | C8H14O
reactant | H2O | O | H2O
solvent | acetonitrile | 740 mL | C(C)#N | C2H3N
product | (R)-2-(tetrahydro-2H-pyran-3-yl)acetaldehyde | 111 mmol, 14.3 g, 60% | O1C[C@H](CCC1)CC=O | C7H12O2
